US09227963B2
tert-butyl 3-bromo-6-chloropicolinate
Tosyl chloride (7.7 g) was added to a solution of 2-chloro-5-bromo picolinic acid (4 g) and pyridine (9.2 mL) in t-butanol (33 mL) at 0° C. The reaction was then stirred at room temperature for 12 hours. NaHCO3 (aqueous, saturated) was then added and the mixture was extracted three times with ethyl acetate. The combined organic phases were washed with brine and dried over Na2SO4. Filtration and evaporation of the organic solvent provided the title compound which was used in the next step without further purification.

reactant | Tosyl chloride | 7.7 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 2-chloro-5-bromo picolinic acid | 4 g | ClC1(NC=C(C=C1)Br)C(=O)O | C6H5BrClNO2
reactant | pyridine | 9.2 mL | N1=CC=CC=C1 | C5H5N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | t-butanol | 33 mL | C(C)(C)(C)O | C4H10O
product | tert-butyl 3-bromo-6-chloropicolinate | BrC=1C(=NC(=CC1)Cl)C(=O)OC(C)(C)C | C10H11BrClNO2
